US05198208
(c) 1,5-Diamino-1-(2-benzyloxy-ethyl)-3-aza-pentane hydrochloride
2-(2-Benzyloxyethyl)-3-oxo-1,7-bis(triphenylmethyl) -1,4,7-triazaheptane is reacted in a manner analogous to the reaction of step (c) of Example 9 up to the point where the purified product is taken up in methanol and conc. hydrochloric acid is added. From this point the method described by M. Bessodes et al., Tetr. Lett., (1986) 579 to remove the triphenylmethyl protecting groups is employed: the product is taken up in a mixture of formic acid and diethylether and refluxed for several hours. After evaporation to dryness the product is dissolved in water, the pH is adjusted to 10 and the product is extracted with chloroform. The organic phase is evaporated and the product is taken up in dry ethanol. Dry hydrogen chloride gas is bubbled through the stirred solution cooled with an ice/water bath, and 1,5-diamino-1-(2-benzyloxy-ethyl)-3-azapentane hydrochloride is collected by filtration.

reactant | 2-(2-Benzyloxyethyl)-3-oxo-1,7-bis(triphenylmethyl) -1,4,7-triazaheptane | C(C1=CC=CC=C1)OCCC(NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(NCCNC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C51H49N3O2
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | CO | CH4O
product | 1,5-Diamino-1-(2-benzyloxy-ethyl)-3-aza-pentane hydrochloride | Cl.NC(CNCCN)CCOCC1=CC=CC=C1 | InChI=1S/C13H23N3O.ClH/c14-7-8-16-10-13(15)6-9-17-11-12-4-2-1-3-5-12;/h1-5,13,16H,6-11,14-15H2;1H
